US05276153
Thionyl chloride (2.18 g, 0.018 mol) was slowly added to a stirred solution of 3-hydroxy-3,3-di(4-methoxyphenyl)propanenitrile (4.0 g, 0.014 mol) in pyridine (30 ml) cooled in an ice-salt bath. After the addition was complete the mixture was allowed to warm up to room temperature and stirred for 2 h. ice cold water (100 ml) was added and the mixture extracted with DCM (2×100 ml) The combined organics were washed with 3M hydrochloric acid (1×50 ml, 1×5 ml) , brine (50 ml) , dried over anhydrous sodium sulphate, filtered and evaporated to yield crude 3,3-di(4-methoxyphenyl)-2-propenenitrile (2.95 g, 79%) which was used directly in the next step.

reactant | Thionyl chloride | 0.018 mol, 2.18 g | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxy-3,3-di(4-methoxyphenyl)propanenitrile | 0.014 mol, 4.0 g | OC(CC#N)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C17H17NO3
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | 3,3-di(4-methoxyphenyl)-2-propenenitrile | 2.95 g, 79% | COC1=CC=C(C=C1)C(=CC#N)C1=CC=C(C=C1)OC | C17H15NO2
